US06362195B1
G. 6-(2-Isopropoxy-4-carboxymethylphenyl)-pyridin-2-ylamine
To a 100 mL round-bottomed flask equipped with condenser and N2 inlet were added 577 mg (1.56 mmol) N-t-butylcarbonyl-6-(2-isopropoxy-4-carboethoxymethylphenyl)-pyridin-2-ylamine and 10 mL ethanol. The solution was heated to reflux, and 30 mL of a 10% aqueous sodium hydroxide solution added dropwise, and refluxing continued for 1 hour. The solution was cooled, and the pH adjusted at 0° C. with 1 N hydrochloric acid to pH 4-5, then extracted with methylene chloride, ethyl acetate, and acetonitrile/ethyl acetate. The combined organic layers were dried and evaporated to give a foam, 449 mg (98%).

reactant | N-t-butylcarbonyl-6-(2-isopropoxy-4-carboethoxymethylphenyl)-pyridin-2-ylamine | 1.56 mmol, 577 mg | C(C)(C)(C)C(=O)NC1=NC(=CC=C1)C1=C(C=C(C=C1)CC(=O)OCC)OC(C)C | C23H30N2O4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 6-(2-Isopropoxy-4-carboxymethylphenyl)-pyridin-2-ylamine | C(C)(C)OC1=C(C=CC(=C1)CC(=O)O)C1=CC=CC(=N1)N | C16H18N2O3
